US07109225B2
In analogy to the procedure described in example 46 c], (2S)-2-ethoxy-3-(4-hydroxy-2-methoxy-phenyl)-propionic acid methyl ester was reacted with 2-tert-butyl-4-chloromethyl-5-methyl-oxazole (example 1, step b]) in the presence of cesium carbonate and potassium iodide to yield (S)-3-[4-(2-tert-butyl-5-methyl-oxazol-4-ylmethoxy)-2-methoxy-phenyl]-2-ethoxy-propionic acid methyl ester as colorless liquid.

reactant | (2S)-2-ethoxy-3-(4-hydroxy-2-methoxy-phenyl)-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)O)OC)OCC)=O | C13H18O5
reactant | 2-tert-butyl-4-chloromethyl-5-methyl-oxazole | C(C)(C)(C)C=1OC(=C(N1)CCl)C | C9H14ClNO
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | (S)-3-[4-(2-tert-butyl-5-methyl-oxazol-4-ylmethoxy)-2-methoxy-phenyl]-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C(C)(C)C)OC)OCC)=O | C22H31NO6
